US04638068
Preparation of 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)-3-quinolinecarboxaldehyde
To a mixture of 5-isopropyl-5-methyl-2-(2-quinolyl)-2-imidazolin-4-one (3 g, 0.0112 mol) in ether (150 ml) is added tetramethylethylenediamine (3.4 g, 0.00225 mol). n-Butyllithium (17 ml, 0.027 mol) in hexane is added dropwise to the reaction mixture cooled to -63° C. An intense red color is generated and after the addition the mixture is maintained at -10° to -20° C. for 21/2 hours. Dry DMF (5 ml) is added at -10° C. and the mixture is allowed to attain room temperature, while stirring overnight. The mixture is diluted with water (75 ml) and is neutralized with acetic acid. A pale yellow solid 2.57 g (78%) is obtained with mp 226°-227° C. after crystallization* from 95% ethanol. Anal. calcd. for C17H17N3O2 : C, 69.13; H, 5.80; N, 14.23. Found: C, 68.98; H, 5.88; N, 14.25. The oxime of this aldehyde, prepared in the usual way, has mp 255°-257° C.

reactant | 5-isopropyl-5-methyl-2-(2-quinolyl)-2-imidazolin-4-one | 0.0112 mol, 3 g | C(C)(C)C1(C(N=C(N1)C1=NC2=CC=CC=C2C=C1)=O)C | C16H17N3O
reactant | tetramethylethylenediamine | 0.00225 mol, 3.4 g | CN(CCN(C)C)C | C6H16N2
reactant | n-Butyllithium | 0.027 mol, 17 ml | C(CCC)[Li]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | 75 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-isopropyl-5-methyl-4-oxo-2-imidazolin-2-yl)-3-quinolinecarboxaldehyde | 2.57 g, 78% | C(C)(C)C1(C(N=C(N1)C1=NC2=CC=CC=C2C=C1C=O)=O)C | C17H17N3O2
